US03991197
9.5 G. of 2,2-dimethyl-3-phenyl-2H-azirine and 12 g. of freshly distilled 2-vinylpyridine are irradiated in 2 l. of benzene for 7 hours under the conditions given in Example 11. After evaporation of the solvent under reduced pressure, the resulting residue is taken up in 400 ml. of n-pentane and decolorized with active carbon. After 48 hours at -18° C., the crude product which crystallizes is recrystallized from n-pentane/small amount of benzene to yield 2-(5,5-dimethyl-2-phenyl-1-pyrrolin-4-yl)-pyridine (melting point 101°-102° C.).

reactant | 2,2-dimethyl-3-phenyl-2H-azirine | CC1(N=C1C1=CC=CC=C1)C | C10H11N
reactant | 2-vinylpyridine | C(=C)C1=NC=CC=C1 | C7H7N
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 2-(5,5-dimethyl-2-phenyl-1-pyrrolin-4-yl)-pyridine | CC1(C(CC(=N1)C1=CC=CC=C1)C1=NC=CC=C1)C | C17H18N2
